US05593993
1-(2-[2-methoxyphenyl]ethyl)thiocarbamoyl imidazole
A solution of 1,1'-thiocarbonyldiimidazole (1.78 g, 10 mmol) and 2-methoxyphenethylamine (1.51 g, 10 mmol) in acetonitrile (25 mL) was stirred at room temperature for 20 h. The resulting precipitate was collected by filtration to provide 1.40 g (53%) of the titled product:

reactant | 1,1'-thiocarbonyldiimidazole | 10 mmol, 1.78 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 2-methoxyphenethylamine | 10 mmol, 1.51 g | COC1=C(CCN)C=CC=C1 | C9H13NO
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 1-(2-[2-methoxyphenyl]ethyl)thiocarbamoyl imidazole | 1.40 g, 53% | COC1=C(C=CC=C1)CCNC(=S)N1C=NC=C1 | C13H15N3OS
